US08633189B2
2-Bromo-4-tert-butyl phenol (15.0 g, 65.5 mmol) and DMAP (400 mg, 3.3 mmol) was dissolved in dichloromethane (75 mL) and triethylamine (18.25 mL, 130.9 mmol), cooled to 0° C., then treated with methyl chloroformate (7.6 mL, 98.2 mmol) and allowed to warm to room temperature over 2 h. The reaction was quenched with water and the layers separated. The aqueous layer was extracted with dichloromethane and the combined organic extracts dried over Na2SO4. The solution was filtered and concentrated in vacuo to yield an oil that was purified by silica gel chromatography (20% ethyl acetate/hexane) to yield 2-bromo-4-tert-butylphenyl methyl carbonate (17 g, 90% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.67 (d, J=2.3 Hz, 1H), 7.47 (dd, J=2.3, 8.5 Hz, 1H), 7.33 (d, J=8.5 Hz, 1H), 3.86 (s, 3H), 1.29-1.26 (m, 9H).

reactant | 2-Bromo-4-tert-butyl phenol | 65.5 mmol, 15.0 g | BrC1=C(C=CC(=C1)C(C)(C)C)O | C10H13BrO
reactant | triethylamine | 130.9 mmol, 18.25 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 98.2 mmol, 7.6 mL | ClC(=O)OC | C2H3ClO2
catalyst | DMAP | 3.3 mmol, 400 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 2-bromo-4-tert-butylphenyl methyl carbonate | 17 g, 90% yield | C(OC1=C(C=C(C=C1)C(C)(C)C)Br)(OC)=O | C12H15BrO3
